US04824859
(a) 3-Chloro-4,5-dihydro-1-phenyl-1H-pyrazole
1-Phenylpyrazolidin-3-one (8.1 g) was suspened in dry toluene (100 ml), followed by addition of phosphoryl chloride (7.0 ml) and the mixture stirred for 1 hour at 85° . When cool the toluene was decanted from the solid and solvent removed in vacuo to give the sub-title compound, (6.9 g), mp 92°-93°.

reactant | 1-Phenylpyrazolidin-3-one | 8.1 g | C1(=CC=CC=C1)N1NC(CC1)=O | C9H10N2O
reactant | phosphoryl chloride | 7.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Chloro-4,5-dihydro-1-phenyl-1H-pyrazole | 6.9 g | ClC1=NN(CC1)C1=CC=CC=C1 | C9H9ClN2
